US06172064B2
To a solution of (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid methylamide (126 g, 519 mmol) in dichloromethane (320 mL) cooled at 0° C. is added trifluoroacetic acid (320 mL). The resulting solution is allowed to warm to 25° C. and is stirred for 18 h. The reaction mixture is concentrated, brought to pH=10 with 2 M sodium hydroxide, and extracted with 4:1 dichloromethane/isopropanol (1000 mL). The organic layer is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2S)-2-Amino-3,3-dimethylbutanoic acid methylamide (40.5 g, 79% yield) as a white solid.

reactant | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid methylamide | 519 mmol, 126 g | CNC([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O | C12H24N2O3
reactant | trifluoroacetic acid | 320 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 320 mL | ClCCl | CH2Cl2
product | (2S)-2-Amino-3,3-dimethylbutanoic acid methylamide | 40.5 g, 79% yield | CNC([C@H](C(C)(C)C)N)=O | C7H16N2O
